US06897231B2
B. 3-(4-Fluorophenyl)-1H-indazole-5-carbonitrile
To a flask containing 4-fluoro-3-{(4-fluorophenyl)carbonyl}benzenecarbonitrile (4.2 g, 0.017 mmol) was added hydrazine monohydrate (15mL) and anhydrous hydrazine (10 mL). In an addition flask the procedure was repeated. Both flasks were allowed to stir overnight exposed to the atmosphere. LCMS confirmed the reactions were complete. To the flasks were added an excess amount of water. The reactions were allowed to stir for two hours. The product of the reactions was collected via a fritted funnel by filtration and combined to yield the title compound. The product was allowed to dry under vacuum and taken on crude into the next step of the synthesis. 1H NMR (DMSO-d6) 8.7 (s, 1H), 8.1 (m, 2H), 7.7-7.8 (m, 2H), 7.3-7.4 (t, 2H), ES-MS m/z 238 [M+1]+.

reactant | 4-fluoro-3-{(4-fluorophenyl)carbonyl}benzenecarbonitrile | 0.017 mmol, 4.2 g | FC1=C(C=C(C=C1)C#N)C(=O)C1=CC=C(C=C1)F | C14H7F2NO
reactant | hydrazine monohydrate | 15mL | O.NN
reactant | hydrazine | 10 mL | NN | H4N2
solvent | water | O | H2O
product | 3-(4-Fluorophenyl)-1H-indazole-5-carbonitrile | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C#N | C14H8FN3
